US08865736B2
3-[(5-Bromo-1,3-benzothiazol-2-yl)methoxy]-2,6-difluorobenzenecarboxamide
Synthesised from 2,6-difluoro-3-hydroxybenzenecarboxamide and 5-bromo-2-(bromomethyl)-1,3-benzothiazole, according to Method B, scheme 2. Yield 81%, mp 244-246° C., HPLC-MS (method 1): m/z 399, 401 [M+H]+, Rt=3.98 min.

reactant | 2,6-difluoro-3-hydroxybenzenecarboxamide | FC1=C(C(=CC=C1O)F)C(=O)N | C7H5F2NO2
reactant | 5-bromo-2-(bromomethyl)-1,3-benzothiazole | BrC=1C=CC2=C(N=C(S2)CBr)C1 | C8H5Br2NS
product | 3-[(5-Bromo-1,3-benzothiazol-2-yl)methoxy]-2,6-difluorobenzenecarboxamide | Yield 81% | BrC=1C=CC2=C(N=C(S2)COC=2C(=C(C(=CC2)F)C(=O)N)F)C1 | C15H9BrF2N2O2S
